US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzofuran-2-carboxamide
2.0 ml (4 mmol) of a 2 M tin(II) chloride solution in DMF are added to N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzofuran-2-carboxamide (100 mg, 0.32 mmol). The mixture is stirred overnight. The reaction mixture is poured into water and made basic using 1N aqueous sodium hydroxide solution. The aqueous phase is extracted six times with ethyl acetate. The combined organic phases are dried over magnesium sulfate, and the solvent is removed under reduced pressure using a rotary evaporator. The crude product is taken up in methanol and shaken together with acidic ion exchange resin (Dowex WX2-200) for about 20 min. The loaded ion exchanger is washed three times with in each ase 30 ml of methanol, then with water/methanol 8:2, again with methanol, with dichloromethane and finally again with methanol. The product is eluted using methanol/triethylamine 95:5. The solvent is removed under reduced pressure using a rotary evaporator. 52 mg (58% of theory) of the title compound are isolated.

reactant | tin(II) chloride | 2 M | [Sn](Cl)Cl
reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-5-nitro-1-benzofuran-2-carboxamide | 0.32 mmol, 100 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1)[N+](=O)[O-] | C16H17N3O4
reactant | water | O | H2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzofuran-2-carboxamide | N12C[C@@H](C(CC1)CC2)NC(=O)C=2OC1=C(C2)C=C(C=C1)N | C16H19N3O2
